US05025031
3-[2-(1H-imidazol-1-yl)ethoxy]phenol
A solution of 12.2 g (0.05 mole) 2-[3-(phenylmethoxy)phenoxy]ethanol and 5.6 g (0.555 mole) of triethylamine in 100 ml of THF was cooled to 0° C. with stirring and treated dropwise with 6.4 g (0.055 mole) of mesyl chloride over a 20-min period. The mixture was stirred at 10° C. or less for 1 hr, then filtered. The filtrate was combined with a slurry of 0.10 mole of imidazole sodium salt in 50 ml of THF and the mixture was heated at reflux for 8 hr. The 50 ml of THF and the mixture was heated at reflux for 8 hr. The cooled reaction mixture was filtered and the filtrate was partitioned between ethyl acetate/ether and water. The organic layer was concentrated to give 14.7 g (100%) of crude intermediate. This syrup (13.0 g) was dissolved in 100 ml of methanol and hydrogenated at 40° C. and 45 psi H2 using 1 g of 10% Pd/C catalyst. This mixture was filtered, and the filtrate was concentrated to give 9.0 g (100%) of crude, crystalline product. A portion was recrystallized from toluene/methyl isobutyl ketone to give the title compound as white crystals, mp 125.0° C.-127.0° C.

reactant | 2-[3-(phenylmethoxy)phenoxy]ethanol | 0.05 mole, 12.2 g | C1(=CC=CC=C1)COC=1C=C(OCCO)C=CC1 | C15H16O3
reactant | triethylamine | 0.555 mole, 5.6 g | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 0.055 mole, 6.4 g | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | imidazole sodium salt | 0.10 mole | [Na].N1C=NC=C1
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-[2-(1H-imidazol-1-yl)ethoxy]phenol | N1(C=NC=C1)CCOC=1C=C(C=CC1)O | C11H12N2O2
